US04198406
(a) N,N-Dimethyl-5-mercapto-1H-tetrazol-1-ylacetamide
Ethyl 5-mercapto-1H-tetrazol-1-ylacetate (1.5 g) in ethanol (10 ml) and 33% dimethylamine in ethanol (6 ml) were mixed and set aside for seven days. Further 33% dimethylamine in ethanol (6 ml) was added and the solution left for 7 more days then evaporated to dryness in vacuo. The residue was dissolved in water (50 ml), adjusted to pH 1.8, and concentrated to ca 20 ml in vacuo. The solution was cooled in ice and the crystalline product collected, 0.94 g (63.0%), m.p. 204°-205°; ε [(CD3)2CO] 3.02 and 3.28 (6H, 2×s --N(CH3)2), 5.35 (2H,s, --CH2CO--), 7.7 (1H,bs, --SH). Found: C, 32.21; H, 5.01; N, 37.63; S, 16.99. C5H9N5OS requires: C, 32.08; H, 4.85; N, 37.41; S, 17.13%.

reactant | Ethyl 5-mercapto-1H-tetrazol-1-ylacetate | 1.5 g | SC1=NN=NN1CC(=O)OCC | C5H8N4O2S
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | N,N-Dimethyl-5-mercapto-1H-tetrazol-1-ylacetamide | CN(C(CN1N=NN=C1S)=O)C | C5H9N5OS
